US04642383
A. Preparation of 4-bromo-o-cresol
Into a 5-liter reaction flask was charged 324g of o-cresol (3 moles) and 1200 g of methylene chloride. The reaction was cooled to 2° C. and 480 g (3 moles) of bromine dissolved in 960 g of methylene chloride was run in slowly over a 7-hour period. The next day, the cooling bath was removed and a heating mantle was attached. 1 liter of Isopar G (trademark of Exxon for a hydrocarbon fraction) was added and distillation of the methylene chloride was begun under water aspirator vacuum. Eventually the distillation rate slowed and the pot temperature rose to 70° C. The still head temperature dropped from 35° C. to 28° C. The solution was poured into a beaker and cooled to room temperature without stirring. In the morning, the solution was cooled to -5° C. and filtered. There was recovered 440 g of 4-bromo-o-cresol melting at 61-64° C. in 78% yield.

reactant | o-cresol | 3 moles | C1(=CC=CC=C1O)C | C7H8O
reactant | bromine | 3 moles, 480 g | BrBr | Br2
solvent | methylene chloride | 960 g | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1200 g | C(Cl)Cl | CH2Cl2
product | 4-bromo-o-cresol | 78% yield | BrC=1C=C(C(=CC1)O)C | C7H7BrO
